data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "Cc1ccc(S(=O)(=O)OC2C3OC(Br)C(O3)C(OS(=O)(=O)c3ccc(C)cc3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2=CC3OC(Br)C(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2=CC3OC(Br)C(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3OC(Br)C2O3)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3OC(Br)C2O3)cc1", "products": "O=C1C2C3OC(Br)C(O3)C12"}, {"reactants": "O=C1C2C3OC(Br)C(O3)C12.[O-]C", "products": "COC1([O-])C2C3OC(Br)C(O3)C21"}, {"reactants": "COC1([O-])C2C3OC(Br)C(O3)C21.CO", "products": "COC(=O)C1CC2OC1OC2Br"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "Cc1cc(Cl)cc(C2(O)C(=O)CC3CCC2(C)C3(C)C)c1.[H+]", "products": "Cc1cc(Cl)cc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1"}, {"reactants": "Cc1cc(Cl)cc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1", "products": "Cc1cc(Cl)cc([C+]2C(=O)CC3CCC2(C)C3(C)C)c1.O"}, {"reactants": "Cc1cc(Cl)cc([C+]2C(=O)CC3CCC2(C)C3(C)C)c1", "products": "Cc1cc(Cl)cc(C23CCC(CC2=O)C(C)(C)[C+]3C)c1"}, {"reactants": "Cc1cc(Cl)cc(C23CCC(CC2=O)C(C)(C)[C+]3C)c1", "products": "CC1=C(c2cc(C)cc(Cl)c2)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2cc(C)cc(Cl)c2)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2cc(C)cc(Cl)c2)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2cc(C)cc(Cl)c2)CCC(C(=O)[OH2+])C1(C)C", "products": "Cc1cc(Cl)cc(C2CCC(C(=O)O)C(C)(C)[C+]2C)c1"}, {"reactants": "Cc1cc(Cl)cc(C2CCC(C(=O)O)C(C)(C)[C+]2C)c1", "products": "Cc1cc(Cl)cc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1"}, {"reactants": "Cc1cc(Cl)cc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1", "products": "Cc1cc(Cl)cc(C2CCC3C(=O)OC2(C)C3(C)C)c1.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1ccc(NN=CCc2ccccc2)cc1Br.Cl[Zn]Cl", "products": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1Br"}, {"reactants": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1Br", "products": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1Br.[H+]"}, {"reactants": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1Br", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2Br)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2Br)C(=N)C=C1", "products": "COc1ccc(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1Br"}, {"reactants": "COc1ccc(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1Br", "products": "COc1ccc2c(c1Br)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2"}, {"reactants": "COc1ccc2c(c1Br)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2.[H+]", "products": "COc1ccc2c(c1Br)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2"}, {"reactants": "COc1ccc2c(c1Br)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2", "products": "COc1ccc2c(c1Br)C(c1ccccc1)C=[NH+]2.N[Zn-](Cl)Cl"}, {"reactants": "COc1ccc2c(c1Br)C(c1ccccc1)C=[NH+]2", "products": "COc1ccc2[nH]cc(-c3ccccc3)c2c1Br.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "COc1ccc(C2(O)C(=O)CC3CCC2(C)C3(C)C)c(F)c1.[H+]", "products": "COc1ccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c(F)c1"}, {"reactants": "COc1ccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c(F)c1", "products": "COc1ccc([C+]2C(=O)CC3CCC2(C)C3(C)C)c(F)c1.O"}, {"reactants": "COc1ccc([C+]2C(=O)CC3CCC2(C)C3(C)C)c(F)c1", "products": "COc1ccc(C23CCC(CC2=O)C(C)(C)[C+]3C)c(F)c1"}, {"reactants": "COc1ccc(C23CCC(CC2=O)C(C)(C)[C+]3C)c(F)c1", "products": "COc1ccc(C2=C(C)C(C)(C)C(C#[O+])CC2)c(F)c1"}, {"reactants": "COc1ccc(C2=C(C)C(C)(C)C(C#[O+])CC2)c(F)c1.O", "products": "COc1ccc(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)c(F)c1"}, {"reactants": "COc1ccc(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)c(F)c1", "products": "COc1ccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)c(F)c1"}, {"reactants": "COc1ccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)c(F)c1", "products": "COc1ccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c(F)c1"}, {"reactants": "COc1ccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c(F)c1", "products": "COc1ccc(C2CCC3C(=O)OC2(C)C3(C)C)c(F)c1.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "Cc1ccc(S(=O)(=O)OC2C3OC(C)(OC3C)C(OS(=O)(=O)c3ccc(C)cc3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2=CC3(C)OC(C)C(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2=CC3(C)OC(C)C(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3(C)OC(C)C2O3)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3(C)OC(C)C2O3)cc1", "products": "CC1OC2(C)OC1C1C(=O)C12"}, {"reactants": "CC1OC2(C)OC1C1C(=O)C12.[O-]C", "products": "COC1([O-])C2C3OC(C)(OC3C)C21"}, {"reactants": "COC1([O-])C2C3OC(C)(OC3C)C21.CO", "products": "COC(=O)C1CC2OC1(C)OC2C"}]}
